US08748624B2
STEP C: 3-(5-(5-Chloro-2-(((2,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (6.5 mL, 22.6 mmol) was added to a THF (10 mL) and MeOH (5 mL) solution of ethyl 3-(5-(5-chloro-2-(((2,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate (3.8 g, 6.5 mmol) and the resulting homogeneous mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2 M HCl. The resulting precipitate was filtered off, dried in vacuo and purified via HPLC to yield the title compound.

reactant | NaOH | 22.6 mmol, 6.5 mL | [OH-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(5-chloro-2-(((2,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | 6.5 mmol, 3.8 g | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CNC1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)Cl | C30H26Cl3N3O3
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(5-(5-Chloro-2-(((2,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoic acid | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)O)CNC1=CC(=C(C=C1)C1=CC=C(C=C1)Cl)Cl | C28H22Cl3N3O3
